US07176242B2
Step 6: 4-Butyl-8-cyano-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylic acid
To a stirred solution of Methyl 4-butyl-8-cyano-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate (184 mg) in methanol (3 mL) was added potassium hydroxide (7 mL of a 1.0 M solution in water). The mixture was stirred at room temperature overnight then concentrated under reduced pressure. The residue was diluted with water and washed with ethyl acetate. The aqueous layer was acidified to pH 4 with 1 N hydrochloric acid and extracted with chloroform (4×100 mL). The combined organic extracts were dried (sodium sulfate), filtered, and concentrated under reduced pressure to give 154 mg of the title compound: 1H NMR (300 MHz, CDCl3) (57.62, 7.46, 4.44, 3.41, 3.33, 1.60, 1.41, 0.98.

reactant | Methyl 4-butyl-8-cyano-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate | 184 mg | C(CCC)N1CCOC2=C1C=C(C=C2C#N)C(=O)OC | C15H18N2O3
reactant | potassium hydroxide | [OH-].[K+]
solvent | methanol | 3 mL | CO | CH4O
solvent | water | O | H2O
product | 4-Butyl-8-cyano-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylic acid | 154 mg | C(CCC)N1CCOC2=C1C=C(C=C2C#N)C(=O)O | C14H16N2O3
